US04016159
9.7 g of 4-amidinophenoxyacetic acid (M.p. 324° to 326° C) were suspended in 50 ml of anhydrous benzene, 29.7 of thionyl chloride were added and the whole was heated for 1 hour on the steam bath under reflux. After the reaction mixture had cooled, the solid product was filtered off with suction. 11.4 g of 4-amidinophenoxyacetyl chloride-hydrochloride melting at 142° - 143° C (with decomposition) were obtained.

reactant | 4-amidinophenoxyacetic acid | 9.7 g | C(N)(=N)C1=CC=C(OCC(=O)O)C=C1 | C9H10N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-amidinophenoxyacetyl chloride-hydrochloride | 11.4 g | Cl.C(N)(=N)C1=CC=C(OCC(=O)Cl)C=C1 | InChI=1S/C9H9ClN2O2.ClH/c10-8(13)5-14-7-3-1-6(2-4-7)9(11)12;/h1-4H,5H2,(H3,11,12);1H
